US05486529
N-[3,3-Difluoro-1-isopropyl-2-oxo-3-(N-phenethylcarbamoyl)propyl]-2-[3-(6-methylpyrid-2-ylmethoxycarbonylamino)-2-oxo-6-phenyl-1,2-dihydro-1-pyridyl]acetamide.
N-[3,3-Difluoro-2-hydroxy-1-isopropyl-3-(N-phenethylcarbamoyl)propyl]-2-[3-(6-methylpyrid-2-ylmethoxycarbonylamino)-2-oxo-6-phenyl-1,2-dihydro-1-pyridyl]acetamide was oxidized using a procedure similar to that described in Example 1.i., but omitting the hydrochloric acid wash. The crude material was purified by chromatography, with methanol:chloroform (1:99) as the eluent. The resulting material was triturated with diethyl ether and petroleum ether to give a solid which was triturated with petroleum ether to yield the title compound; TLC: Rf =0.31, chloroform:methanol (30:1); 300 MHz NMR: 9.20 (t,1), 8.68 (s,1), 8.50 (d,1), 7.91 (d,1), 7.71 (t,1), 7.48-7.11 (m,14), 6.22 (d,1), 5.18 (s,2), 4.83-4.75 (m,1), 4.50 (broad s,2), 2.76 (t,2), 2.27-2.12 (m,1), 8.48 (d,3), 7.36 (d,3); MS: m/z=674(M+ 1). Analysis for C37H37F2N5O6 : Calculated: C, 64.18; H, 5.54; N, 10.40; Found: C, 64.21; H, 5.72; N, 10.10.

reactant | N-[3,3-Difluoro-2-hydroxy-1-isopropyl-3-(N-phenethylcarbamoyl)propyl]-2-[3-(6-methylpyrid-2-ylmethoxycarbonylamino)-2-oxo-6-phenyl-1,2-dihydro-1-pyridyl]acetamide | FC(C(C(C(C)C)NC(CN1C(C(=CC=C1C1=CC=CC=C1)NC(=O)OCC1=NC(=CC=C1)C)=O)=O)O)(C(NCCC1=CC=CC=C1)=O)F | C36H39F2N5O6
reactant | hydrochloric acid | Cl | ClH
product | N-[3,3-Difluoro-1-isopropyl-2-oxo-3-(N-phenethylcarbamoyl)propyl]-2-[3-(6-methylpyrid-2-ylmethoxycarbonylamino)-2-oxo-6-phenyl-1,2-dihydro-1-pyridyl]acetamide | FC(C(C(C(C)C)NC(CN1C(C(=CC=C1C1=CC=CC=C1)NC(=O)OCC1=NC(=CC=C1)C)=O)=O)=O)(C(NCCC1=CC=CC=C1)=O)F | C36H37F2N5O6
